US08912221B2
Step B: 5-Bromo-3-nitro-pyridine-2-carbonitrile
To a stirred solution of 2,5-dibromo-3-nitro-pyridine (25 g, 88.68 mmol) in propionitrile (100 ml) was added CuCN (8.7 g, 97.55 mmol) and the mixture was heated to 90° C. for 17 h. Then it was allowed to cool to room temperature, diluted with EtOAc, washed twice with brine, dried with Na2SO4 and concentrated. The remaining residue was purified by chromatography (silica gel; DCM/MeOH 95:5-85:15) to obtain the title compound as yellow solid (17.5 g, 68%).

reactant | 2,5-dibromo-3-nitro-pyridine | 88.68 mmol, 25 g | BrC1=NC=C(C=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | CuCN | 97.55 mmol, 8.7 g | C(#N)[Cu]
solvent | propionitrile | 100 ml | C(CC)#N | C3H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromo-3-nitro-pyridine-2-carbonitrile | 17.5 g, 68% | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
